US06451821B1
The process is performed as in Example 2, starting with 2 g of N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(phenylmethyl)ethyl]thiourea and 20 cm3 of aqueous 6N hydrochloric acid. The reaction lasts 1 h 30 min. After cooling the reaction mass to a temperature in the region of 0° C., the solution is concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. Crystallization of the oil obtained is initiated by addition of diethyl ether. The resulting precipitate is spin-filtered, washed with twice 10 cm3 of diethyl ether and then dried under reduced pressure (10 Pa) at a temperature in the region of 60° C. The product is purified by taking it up in 100 cm3 of dichloromethane with stirring for 30 minutes. After filtration of the suspension, the filter cake is washed with twice 10 cm3 of dichloromethane and is then dried under the same conditions as above. 1.1 g of (+)-(4R)-4-phenylmethyl-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride are obtained in the form of a white solid melting at 168° C. (αD2032 +8.7±0.3 at a concentration of 1% in methanol).

reactant | N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(phenylmethyl)ethyl]thiourea | 2 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CC1=CC=CC=C1 | C14H22N2OS
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | (+)-(4R)-4-phenylmethyl-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride | 1.1 g | Cl.C1(=CC=CC=C1)C[C@H]1N=C(SC1)N | InChI=1S/C10H12N2S.ClH/c11-10-12-9(7-13-10)6-8-4-2-1-3-5-8;/h1-5,9H,6-7H2,(H2,11,12);1H/t9-;/m1./s1
